US04115575
4.5 g of 5-hydroxy-2-methylthiopyrimidine, 9.0 g of potassium carbonate and 3.9 g of allyl bromide are together refluxed in 50 ml of acetone, with stirring, for 41/2 hours. The inorganic salts are removed by filtration, and the filtrate is concentrated under reduced pressure. The oil remaining yields, from petroleum ether, 5-allyloxy-2-methylthiopyrimidine, m.p. 41°-42°.

reactant | 5-hydroxy-2-methylthiopyrimidine | 4.5 g | OC=1C=NC(=NC1)SC | C5H6N2OS
reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 3.9 g | C(C=C)Br | C3H5Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-allyloxy-2-methylthiopyrimidine | C(C=C)OC=1C=NC(=NC1)SC | C8H10N2OS
